US06361978B1
Biotin production by fermentation
Escherichia coli JM109 (pTrcEB1, pMW218) and Escherichia coli JM109 (pTrcEB1, pKNnif05) were inoculated into 50 ml of PC medium (2% glycerol, 5% protease peptone, 2% casamino acid, 1% K2HPO4, 0.05% KCl, 0.05% MgSO4 7H2O, 0.001% MnSO4 4-6H2O, 0.001% FeSO4 7H2O; pH7.0) containing 100 μg/ml ampicillin, 10 μg/ml kanamycin and 200 μg/ml desthiobiotin, and subjected to shaking culture at 30° C. for 3 hours. Then, IPTG was added at 1 mM to induce the trc promoter, and shaking culture was carried out at 30° C. for 27 hours. Escherichia coli JM109 (pTrc99A), Escherichia coli JM109 (pTrcEB1) and Escheerichia coli JM109 (pKNnif06) were inoculated into 50 ml of PC medium containing 100 μg/ml ampicillin and 200 μg/ml desthiobiotin, and cultivated in the same way as described above.

reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | KCl | [Cl-].[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | desthiobiotin | CC1C(NC(=O)N1)CCCCCC(=O)O | C10H18N2O3
reactant | IPTG | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
catalyst | MnSO4 | [O-]S(=O)(=O)[O-].[Mn+2]
solvent | glycerol | OCC(O)CO | C3H8O3
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
